US06531502B1
3,5-Diisopropyl-4-methoxybenzaldehyde was condensed with 5,6-dimethoxy-2-oxindole to give 0.4 g of 3-(3,5-diisopropyl-4-methoxybenzylidene)-5,6-dimethoxy-1,3-dihydroindol-2-one as a yellow-orange solid.

reactant | 3,5-Diisopropyl-4-methoxybenzaldehyde | C(C)(C)C=1C=C(C=O)C=C(C1OC)C(C)C | C14H20O2
reactant | 5,6-dimethoxy-2-oxindole | COC=1C=C2CC(NC2=CC1OC)=O | C10H11NO3
product | 3-(3,5-diisopropyl-4-methoxybenzylidene)-5,6-dimethoxy-1,3-dihydroindol-2-one | 0.4 g | C(C)(C)C=1C=C(C=C2C(NC3=CC(=C(C=C23)OC)OC)=O)C=C(C1OC)C(C)C | C24H29NO4
